US08026244B2
(a) 4-{[(6-Phenoxypyridin-3-yl)methyl]amino}-1H-imidazole-5-carboxamide
Triethylamine (0.47 mL, 3.38 mmol) was added to 5-aminoimidazole-4-carboxamide hydrochloride (0.50 g, 3.1 mmol) in anhydrous methanol (12 mL). The reaction mixture was stirred for 10 min and 6-phenoxynicotinaldehyde (0.74 g, 3.7 mmol) and acetic acid (0.09 mL, 1.57 mmol) were added. The dark solution was stirred over night and sodium cyanoborohydride (0.23 g, 3.7 mmol) was added. More sodium cyanoborohydride (0.15 g, 2.4 mmol) was added after 40 min and the mixture was stirred for another 3 h. The reaction mixture was heated at 50° C. for 3 h, sodium cyanoborohydride (0.15 g, 2.4 mmol) was added and the mixture was heated at 50° C. over night. Sodium borohydride (0.12 g, 3.2 mmol) was added and the mixture was heated at 50° C. for 1 h, more sodium borohydride (0.15 g, 4.0 mmol) and NMP (1.0 mL) were added and the mixture was heated at 60° C. for 3.5 h. After cooling, NaHCO3 (sat., 20 mL) was added and some of the methanol was removed in vacuo. The mixture was extracted with EtOAc, the organic phase was extracted with 1N HCl (2×30 mL) and the acidic phase was made basic with 2N NaOH and was extracted with DCM. The organic phase was dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography on silica (0 to 10% MeOH in DCM+NH3) to yield 0.25 g (0.81 mmol, 26%) of a slightly green syrup.

reactant | Triethylamine | 3.38 mmol, 0.47 mL | C(C)N(CC)CC | C6H15N
reactant | 5-aminoimidazole-4-carboxamide hydrochloride | 3.1 mmol, 0.50 g | Cl.NC1=C(N=CN1)C(=O)N
reactant | 6-phenoxynicotinaldehyde | 3.7 mmol, 0.74 g | O(C1=CC=CC=C1)C1=NC=C(C=O)C=C1 | C12H9NO2
reactant | acetic acid | 1.57 mmol, 0.09 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 3.7 mmol, 0.23 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 2.4 mmol, 0.15 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 2.4 mmol, 0.15 g | C(#N)[BH3-].[Na+]
reactant | Sodium borohydride | 3.2 mmol, 0.12 g | [BH4-].[Na+]
reactant | sodium borohydride | 4.0 mmol, 0.15 g | [BH4-].[Na+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
solvent | NMP | 1.0 mL | CN1CCCC1=O | C5H9NO
product | 4-{[(6-Phenoxypyridin-3-yl)methyl]amino}-1H-imidazole-5-carboxamide | O(C1=CC=CC=C1)C1=CC=C(C=N1)CNC=1N=CNC1C(=O)N | C16H15N5O2
